****

.subckt SLC VIN VINB VOUT vssx vcc
M2 vcc net07 net02 VPB php L=0.04u W=0.09u
M7 net02 net03 net03 VPB pulvt L=0.04u W=0.09u
M3 vcc  net03 net06 VPB php L=0.04u W=0.09u
M8 net06 net07 net07 VPB pulvt L=0.04u W=0.09u
M4 vcc net06 VOUT VPB php L=0.04u W=0.135u
M0 vssx net07 VOUT VNB nhp L=0.04u W=0.09u
M1 vssx net07 VOUT VNB nhp L=0.04u W=0.09u
M5 vssx VINB net03 VNB nulvt L=0.04u W=0.135u
M6 vssx VIN net07 VNB nulvt L=0.04u W=0.135u
.ends

